US08012976B2
9-(1-Methyl-1H-imidazol-2-yl)-8-(4-(pyrrolidin-1-ylmethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of 4-(9-(1-methyl-1H-imidazol-2-yl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (80 mg, 0.22 mmol), acetic acid (60 uL) and pyrrolidine (1.05 g, 15 mmol) in acetonitrile (7 mL) was stirred at room temperature for 4 hr. To this mixture was added NaCNBH3 (36 mg, 0.67 mmol) at 0° C. After the addition, the mixture was stirred at room temperature for 4 hr. Upon removal of solvents under reduced pressure, the residue was washed with ethyl acetate and filtered. The filtrate was concentrated to give the title compound as a white solid (21 mg, yield 22%). LC-MS (ESI) m/z: 427 (M+1)+. 1H-NMR: (400 MHz, DMSO-d6&D2O) δ (ppm): 1.66 (d, J=2.8 Hz, 4H), 2.37 (s, 4H), 3.38 (s, 3H), 3.50 (s, 2H), 4.62 (d, J=10 Hz, 1H), 4.90 (d, J=10.4 Hz, 1H), 6.72 (s, 1H), 6.87 (s, 1H), 7.15-7.20 (m, 3H), 7.29-7.32 (m, 3H), 7.36-7.38 (m, 1H), 7.54-7.58 (m, 1H), 12.15 (s, 1H).

reactant | 4-(9-(1-methyl-1H-imidazol-2-yl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.22 mmol, 80 mg | CN1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C21H17N5O2
reactant | acetic acid | 60 uL | C(C)(=O)O | C2H4O2
reactant | pyrrolidine | 15 mmol, 1.05 g | N1CCCC1 | C4H9N
reactant | NaCNBH3 | 0.67 mmol, 36 mg | [BH3-]C#N.[Na+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 9-(1-Methyl-1H-imidazol-2-yl)-8-(4-(pyrrolidin-1-ylmethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 21 mg, yield 22% | CN1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)CN2CCCC2 | C25H26N6O
